US07208493B2
6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine hydrochloride salt
4.4 g (13.27 mmol) of 6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine was suspended in 35 ml of MeOH. A solution of 2.61 g of aq. HCl (26.55 mmol, 12.1 N) in 5 mL of MeOH was added to the suspension. The reaction mixture became homogeneous within 5 min of stirring. It was left to stir for 30 min and then added dropwise to 400 mL of diethyl ether with vigorous stirring. The resulting precipitate was collected, washed repeatedly with ether and dried in vacuo to give 4.62 g (94.7% yield) of the product as a bright-yellow solid. 98.3% purity by LC/MS (230 DAD). Mass-spec [ES+]=332.8. 1H NMR (MeOH) 6.88–6.90 (2H, m), 6.99–7.02 (2H, m), 7.04–7.08 (2H, m), 7.17–7.20 (2H, m), 8.79 (1H, s).

reactant | 6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine | 13.27 mmol, 4.4 g | OC=1C=C(C=CC1)C=1N=C2C(=NC=NC2=NC1C1=CC(=CC=C1)O)N | C18H13N5O2
reactant | HCl | 26.55 mmol, 12.1 N, 2.61 g | Cl | ClH
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | MeOH | 35 ml | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine hydrochloride salt | 4.62 g, 94.7% yield | Cl.OC=1C=C(C=CC1)C=1N=C2C(=NC=NC2=NC1C1=CC(=CC=C1)O)N | InChI=1S/C18H13N5O2.ClH/c19-17-16-18(21-9-20-17)23-15(11-4-2-6-13(25)8-11)14(22-16)10-3-1-5-12(24)7-10;/h1-9,24-25H,(H2,19,20,21,23);1H
